US04880821
Step 1: N-(2-Dimethylaminoethyl)-N-methyl-4-(4-nitrophenoxy)-3-nitrobenzenesulfonamide
To a solution of N-(2- dimethylaminoethyl)-N-methyl-4- chloro-3-nitrobenzenesulfonamide (2.2 g, 6.84 mmol) and 4- nitrophenol (0.97 g, 7.0 mmol) in dimethylformamide (30 mL) was added 60% sodium hydride-mineral oil suspension (0.28 g, 7.0 mmol). The resulting solution was stirred at 60° for 20 hours under N2. After concentrating under reduced pressure at 50° , the residue was partitioned between ethyl acetate and water. The ethyl acetate extract was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was flash chromatographed over silica gel and 2.8 g of the nitrophenyl ether eluted with 3% methanol-97% chloroform.

reactant | N-(2- dimethylaminoethyl)-N-methyl-4- chloro-3-nitrobenzenesulfonamide | 6.84 mmol, 2.2 g | CN(CCN(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C)C | C11H16ClN3O4S
reactant | 4- nitrophenol | 7.0 mmol, 0.97 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-(2-Dimethylaminoethyl)-N-methyl-4-(4-nitrophenoxy)-3-nitrobenzenesulfonamide | CN(CCN(S(=O)(=O)C1=CC(=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C)C | C17H20N4O7S
